US07208493B2
[7-(2,6-Dimethyl-phenyl)-benzo[1,2,4]triazin-3-yl]-phenyl-amine
7-(2,6-Dimethyl-phenyl)-benzo[1,2,4]triazin-3-ylamine(24 mg, 0.096 mmol) was dissolved in aniline, sulfamic acid (18 mg, 0.19 mmol) was added. The mixture was reflux overnight. The final product was isolated by preparative HPLC. Yield: 32%. ESI-MS: [M+H]+, 327; 1H NMR (DMSO-d6): δ 2.05(s, 6 H), 7.09(t, J=7.35 Hz, 1 H), 7.18–7.25 (m, 3 H), 7.40(m, 2 H), 7.71(dd, J1=8.5 Hz, J2=1.9 Hz, 1 H), 7.84(d, J=8.5 Hz, 1 H), 8.00(d, J=7.6 Hz, 2 H), 8.11(d, J=1.9 Hz, 1 H).

reactant | 7-(2,6-Dimethyl-phenyl)-benzo[1,2,4]triazin-3-ylamine | 0.096 mmol, 24 mg | CC1=C(C(=CC=C1)C)C1=CC2=C(N=C(N=N2)N)C=C1 | C15H14N4
reactant | sulfamic acid | 0.19 mmol, 18 mg | S(N)(O)(=O)=O | H3NO3S
solvent | aniline | NC1=CC=CC=C1 | C6H7N
product | [7-(2,6-Dimethyl-phenyl)-benzo[1,2,4]triazin-3-yl]-phenyl-amine | Yield: 32% | CC1=C(C(=CC=C1)C)C1=CC2=C(N=C(N=N2)NC2=CC=CC=C2)C=C1 | C21H18N4
